US08461151B2
a) 8-Chloro-1-(4-hydroxy-4-o-tolyl-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester
To a solution of 8-chloro-1-(4-oxo-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester (0.2 g, 0.5 mmol) in dry tetrahydrofuran (5 ml) was added a 1M o-tolylmagnesium chloride solution in tetrahydrofuran (0.5 ml, 0.5 mmol) at room temperature. After stirring for 2 h the reaction mixture was quenched with aqueous saturated ammonium chloride solution and extracted with two portions of ethyl acetate. The combined organic layers were washed with one portion of brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.17 g, 70%) as white solid. MS m/e: 509 ([[M+H]]+)

reactant | 8-chloro-1-(4-oxo-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 0.5 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CC2=C(N3C(=NN=C3C1)C1CCC(CC1)=O)C=CC(=C2)Cl | C21H25ClN4O3
reactant | o-tolylmagnesium chloride | 1M | C1(=C(C=CC=C1)[Mg]Cl)C
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mmol, 0.5 ml | O1CCCC1 | C4H8O
product | 8-Chloro-1-(4-hydroxy-4-o-tolyl-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 0.17 g, 70% | C(C)(C)(C)OC(=O)N1CC2=C(N3C(=NN=C3C1)C1CCC(CC1)(C1=C(C=CC=C1)C)O)C=CC(=C2)Cl | C28H33ClN4O3
